US06423869B1
diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate
To a solution of (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionic acid hydrochloride (4.35 g) in methanol (100 ml) was added a solution of diphenyldiazomethane (3.40 g) in methanol (100 ml) under ice-cooling and the mixture was stirred at room temperature for 15 hours. Removal of the organic solvent gave a residue, which was suspended in water (200 ml). To the suspension were added sodium hydrogencarbonate (2.20 g) and benzyl chloroformate (18 ml) and the mixture was stirred at room temperature for 2 hours. The reaction mixture was extracted with ethyl acetate and the extract was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (5.95 g).

reactant | (S)-3-[(2S,3R,4R,5S)-2,3,4,6-tetrahydroxy-5-(L-leucyl)aminohexanoyl]amino-3-phenylpropionic acid hydrochloride | 4.35 g | Cl.O[C@H](C(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1)[C@@H]([C@@H]([C@H](CO)NC([C@@H](N)CC(C)C)=O)O)O
reactant | diphenyldiazomethane | 3.40 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | sodium hydrogencarbonate | 2.20 g | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 18 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
product | diphenylmethyl (S)-3-[(2S,3R,4R,5S)-5-(N-benzyloxycarbonyl-L-leucyl)amino-2,3,4,6-tetrahydroxyhexanoyl]amino-3-phenylpropionate | 5.95 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@H]([C@H]([C@H]([C@@H](C(=O)N[C@@H](CC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)O)O)O)CO | C42H49N3O10
